Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Optiray 320
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ y/o woman with a PMH of GERD, dysphagia, IBS, 
B12 deficiency, and fixed delusional disorder, who presented to 
the ___ ED requesting MRI for headache. She reports that this 
headache has been ongoing for 10 days in the setting of eating 
___ food from a store. She has also had diffuse cramping in 
her lower extremities for 6 to 9 hours after eating this food, 
with associated nausea and vomiting. She believes that she has 
been poisoned by her ___ and is requesting an MRI. On 
note, she previously presented to the ___ ED on ___ with 
identical symptoms, and had a negative work-up at the time, with 
a negative CBC, CMP, lipase, INR, CXR, and head CT. There was no 
fever or signs of meningismus, and no LP was performed. She has 
been seen in Partners-affiliated EDs seven times in the last 
three months for various complaints with negative work-up. 

In the ED, initial vitals were: T 98.4 P 75 BP 131/81 RR 18 O2 
100% RA. 
 
Labs were notable for Na 139, K 3.8, Cl 102, HCO3 24, BUN 12, Cr 
0.7, Ca 9.8, Mg 2.5, Phos 3.3. ALT 14, AST 23, Alk phos 76, 
Tbili 0.7, Lip 27, Albumin 4.8. CBC normal, with WBC 5.7, H/H of 
13.5/41.4, PLT 295. INR of 0.9. Lactate of 1.6. CXR negative. 
Head CT w/o contrast negative for acute process. 

Psychiatry was consulted in the ED, who found that she is 
inattentive on exam, demonstrated difficulty with memory and had 
fixed paranoid delusion of being poisoned by her husband, with 
signs of delirium on top of dementia. She was deemed to lack 
capacity to leave AMA, and was started on thiamine 100 mg daily 
and olanzapine 2.5 mg PO qhs. 

On the floor, the patient was pleasant, attentive, and oriented 
to person, place ___"), date, birthday, and days of 
week forward and backward. She reported that she had been having 
this headache for over a month and was concerned about being 
poisoned. The headache is bilateral, and she says that she has 
not tried anything for it. She reported that her dress had also 
been poisoned, and that the records regarding this poisoning 
were filed at a department, but she did not know which one. She 
denied fevers, chills, chest pain, shortness of breath, nausea, 
vomiting, or diarrhea. 

 
Past Medical History:
PAST MEDICAL HISTORY:
1.  Weight loss 20 pounds ___.
2.  GERD/NUD -- IM of  antrum.
3.  IBS-D 
4.  Eosinophilia, ACTH stimulation negative ___.
5.  Intestinal metaplasia of the antrum.
6.  Delusional disorder- fixed beliefs that ___ is 
poisoning her
7.  Diverticulosis.
8.  anxiety

PAST SURGICAL HISTORY:  
Colonoscopy ___, ___, diverticulosis, no random biopsies.
Endoscopy ___, IM of the antrum, esophagus negative.

 
Social History:
___
Family History:
- non contributory
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Vitals: T 97.6F BP 116/63 mmHg P 62 RR 18 O2 99% RA
General: Alert, pleasant woman, oriented, in NAD.
HEENT: PERRL; EOMs intact; MMM, OP clear.
Neck: Supple, no LAD.
CV: RRR, no MRGs; normal S1/S2.
Pulm: CTA b/l; no wheezes, rhonchi, or rales.
Abd: Soft, non-tender, non-distended.
Ext: Warm and well-perfused. No edema.
Neuro: A&Ox3. CNs II-XII grossly intact.
Psych: Normal affect, well-groomed. Fixed delusional belief that 
___ is poisoning her; tangential thought process. 

=======================
DISCHARGE PHYSICAL EXAM
=======================
Vitals: T 98.1 F BP 126/65 mmHg P 64 RR 18 O2 100% RA
General: Alert, pleasant woman, ambulating in NAD. 
HEENT: PERRL; EOMs intact; MMM, OP clear.
CV: RRR, no MRGs; normal S1/S2.
Pulm: CTA b/l; no wheezes, rhonchi, or rales.
Abd: Soft, non-tender, non-distended.
Ext: Warm and well-perfused. No edema.
Neuro: CNs II-XII grossly intact. Narrow-based, steady gait. 
Psych: Normal affect, well-groomed. Tangential thought process. 

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 11:00AM BLOOD WBC-5.7 RBC-4.16 Hgb-13.5 Hct-41.4 
MCV-100* MCH-32.5* MCHC-32.6 RDW-12.5 RDWSD-45.1 Plt ___
___ 11:00AM BLOOD Neuts-43.4 ___ Monos-7.4 Eos-3.0 
Baso-0.9 Im ___ AbsNeut-2.48 AbsLymp-2.57 AbsMono-0.42 
AbsEos-0.17 AbsBaso-0.05
___ 11:00AM BLOOD Plt ___
___ 11:00AM BLOOD ___ PTT-23.6* ___
___ 11:00AM BLOOD Glucose-76 UreaN-12 Creat-0.7 Na-139 
K-3.8 Cl-102 HCO3-24 AnGap-17
___ 11:00AM BLOOD ALT-14 AST-23 AlkPhos-76 TotBili-0.7
___ 11:00AM BLOOD Albumin-4.8 Calcium-9.8 Phos-3.3 Mg-2.5
___ 11:00AM BLOOD VitB12-815
___ 11:00AM BLOOD TSH-1.7
___ 11:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:23AM BLOOD Lactate-1.6

==============
DISCHARGE LABS
==============
___ 07:52AM URINE Color-Yellow Appear-Clear Sp ___
___ 07:52AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 07:52AM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 07:52AM URINE Mucous-RARE

============
MICROBIOLOGY
============
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 4:56 pm
      SEROLOGY/BLOOD      TAKEN FROM ___. 

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
__________________________________________________________
___ 11:00 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

===============
IMAGING/STUDIES
===============
CHEST (PA & LAT) (___):
FINDINGS:  
  
PA and lateral views of the chest provided.   Previously 
detected pulmonary nodules are not conspicuous on chest 
radiograph.  The lungs appear relatively clear.  The heart size 
is normal.  The mediastinal contour is prominent due to a 
unfolded thoracic aorta.  No pleural effusion or pneumothorax.  
Bony structures are intact.  Degenerative changes and 
dextroscoliosis partially noted in the imaged lumbar spine. 
  
IMPRESSION:  
  
No acute findings. 

CT HEAD W/O CONTRAST (___):
FINDINGS:  
  
There is no intra-axial or extra-axial hemorrhage, edema, shift 
of normally midline structures, or evidence of acute major 
vascular territorial infarction.  There is periventricular white 
matter hypodensity which is most compatible with chronic 
microvascular ischemic disease.  Ventricles and sulci are mildly 
prominent which likely reflect age related involutional change. 
The basal cisterns are widely patent.  Mild mucosal thickening 
is seen within the imaged paranasal sinuses.  The mastoid air 
cells and middle ear cavities are well aerated.  The bony 
calvarium is intact. 
  
IMPRESSION:  
  
No acute intracranial process. 

 
Brief Hospital Course:
___ is a ___ y/o ___ woman w/ PMH of fixed 
delusional disorder, IBS, GERD, vitamin D deficiency, and 
asthma, who presented with complaint of chronic headache in the 
setting of fixed delusion that she was being poisoned by her 
___.

============
ACUTE ISSUES
============
# Fixed delusional disorder. Of note has had fixed delusion for 
many years and has been seen in multiple EDs in ___ several 
times over the past few months for a variety of complaints with 
a negative work-up. Psychiatry was consulted, who felt that the 
patient lacked capacity to leave AMA. There was initial concern 
for delirium on top of likely underlying dementia. Infectious 
and stroke work-up was negative. Collateral obtained from family 
members and PCP revealed that she has been able to function at 
home despite her delusions. She was evaluated by OT, who 
recommended ___ supervision. Ultimately, the decision was made 
to discharge the patient with outpatient follow-up, ensuring 
that she has 24 hour supervision with family members. She was 
discharged with ___. Nortriptyline was 
stopped. She was started on olanzapine 5 mg daily and thiamine 
100 mg daily. 

# Headache. Ms. ___ gave an inconsistent history, ranging from 
10 days to months of this headache. Most likely tension 
headache, given chronicity. No focal neurologic signs; no fever 
to suggest meningitis. No evidence of mass lesion on head CT. No 
history of migraine. No loss of consciousness or evidence of 
seizure activity. Her headache resolved with acetaminophen. 

==============
CHRONIC ISSUES
==============

# GERD. Continued pantoprazole and ranitidine. 

# IBS. Continued loperamide, simethicone, sucralfate, and 
dicyclomine.

# Pain. Continued nortriptyline 30 mg PO qhs.

# Asthma. Continued fluticasone. 

===================
TRANSITIONAL ISSUES
===================
# Medication changes. Nortriptyline was stopped. Olanzapine 5 mg 
qhs was started. She was also started on thiamine.
# Psychiatric. Recommend outpatient psychiatric follow-up if 
patient is willing.
# Home services. Pt will have ___ services 
visiting the home on ___. Information was given to the ___ 
regarding establishing contact with Elder Services.
# CODE: FULL
# CONTACT: ___ ___, Husband, ___, PCP 
___ ___

Billing: >30 minutes spent coordinating discharge home.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q8H:PRN pain 
2. LOPERamide 2 mg PO DAILY:PRN diarrhea 
3. Simethicone 40-80 mg PO DAILY:PRN diarrhea 
4. DiCYCLOmine 10 mg PO Q6H:PRN diarrhea, cramps 
5. Colestid (colestipol) 2 g oral DAILY 
6. Ranitidine 150 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. diclofenac sodium 1 % topical Q8H:PRN pain 
10. Sucralfate 1 gm PO QID 
11. Pantoprazole 40 mg PO Q24H 
12. Nortriptyline 30 mg PO QHS 
13. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q8H:PRN pain 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. DiCYCLOmine 10 mg PO Q6H:PRN diarrhea, cramps 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. LOPERamide 2 mg PO DAILY:PRN diarrhea 
6. Multivitamins 1 TAB PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Ranitidine 150 mg PO DAILY 
9. Simethicone 40-80 mg PO DAILY:PRN diarrhea 
10. Sucralfate 1 gm PO QID 
11. Colestid (colestipol) 2 g oral DAILY 
12. diclofenac sodium 1 % topical Q8H:PRN pain 
13. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 (One) tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
14. OLANZapine 5 mg PO QHS 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSES
=================
- delusional disorder
- dementia

===================
SECONDARY DIAGNOSES
===================
- vitamin B12 deficiency
- GERD
- dysphagia
- IBS
- asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___. You were admitted because of a headache and some 
confusion. We performed a number of tests and found that you did 
not have an infection or a stroke. Your headache improved. 

Please continue to take all medications as prescribed. Your 
discharge follow-up appointments are outlined below.

We wish you the very best!

Warmly,
Your ___ Team
 
Followup Instructions:
___